US06528538B1
Ethyl 2-(4-Chlorophenyl)-5-(9H-fluoren-9-yl)-[1,3]dioxane-2-carboxylate (Example 55)
The product is obtained by reacting the above diol with ethyl 2-(4-chlorophenyl)-2-oxoacetate according to the method already described, by refluxing in toluene in the presence of para-toluenesulphonic acid.

reactant | ethyl 2-(4-chlorophenyl)-2-oxoacetate | ClC1=CC=C(C=C1)C(C(=O)OCC)=O | C10H9ClO3
reactant | para-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-Chlorophenyl)-5-(9H-fluoren-9-yl)-[1,3]dioxane-2-carboxylate | ClC1=CC=C(C=C1)C1(OCC(CO1)C1C2=CC=CC=C2C=2C=CC=CC12)C(=O)OCC | C26H23ClO4
